US06734203B2
2-Methoxyethylamine (0.15 ml) was added to a solution of methyl 5-[N-acetyl-N-(2-methoxyethyl)amino]-4,7-dihydro-4,7-dioxobenzo[b]thiophene-2-carboxylate (0.39 g) in tetrahydrofuran (30 ml) and the mixture was stirred at room temperature for 6.5 hours. The solvent was evaporated and the residue was purified by silica gel column chromatography (elution with hexane-ethyl acetate 50:1 solution) to give methyl 5-[N-acetyl-N-(2-methoxyethyl)amino]-4,7-dihydro-6-(2-methoxyethyl)amino-4,7-dioxobenzo[b]thiophene-2-carboxylate (0.39 g) as a reddish purple oil.

reactant | 2-Methoxyethylamine | 0.15 ml | COCCN | C3H9NO
reactant | methyl 5-[N-acetyl-N-(2-methoxyethyl)amino]-4,7-dihydro-4,7-dioxobenzo[b]thiophene-2-carboxylate | 0.39 g | C(C)(=O)N(CCOC)C=1C(C2=C(SC(=C2)C(=O)OC)C(C1)=O)=O | C15H15NO6S
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | methyl 5-[N-acetyl-N-(2-methoxyethyl)amino]-4,7-dihydro-6-(2-methoxyethyl)amino-4,7-dioxobenzo[b]thiophene-2-carboxylate | 0.39 g | C(C)(=O)N(CCOC)C=1C(C2=C(SC(=C2)C(=O)OC)C(C1NCCOC)=O)=O | C18H22N2O7S
